US07820665B2
5-Bromo-2-chloropyridin-3-amine (1.535 g, 7.399 mmol, Asymchem Laboratories, Morrisville, N.C.) was dissolved in pyridine (20 mL), and 4-acetylbenzenesulfonyl chloride (2.436 g, 11.14 mmol) was added. The reaction flask was fit with a reflux condensor and placed in a preheated oil bath (110 C-115 C) and stirred under nitrogen for 2 hours. The reaction was then cooled to room temperature, concentrated, and poured into a biphasic solution of water (40 mL) and DCM (50 mL). The layers were separated, and the aqueous phase was extracted with DCM. The organic extracts were combined, dried over sodium sulfate, filtered, concentrated, and purified on a silica gel filter plug (DCM to 20:1 DCM/MeOH) to afford 4-acetyl-N-(5-bromo-2-chloropyridin-3-yl)benzenesulfonamide. MS (ESI positive ion) m/z: 389 (M+1, 79Br), 391 (M+1, 81Br). Calcd. for C13H10BrClN2O3S: 388 (79Br), 390 (81Br).

reactant | 5-Bromo-2-chloropyridin-3-amine | 7.399 mmol, 1.535 g | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
reactant | 4-acetylbenzenesulfonyl chloride | 11.14 mmol, 2.436 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 4-acetyl-N-(5-bromo-2-chloropyridin-3-yl)benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Br)Cl | C13H10BrClN2O3S
